US04987232
1-Cyano-2methoxy-1-methoxycarbonyl-ethene (8.5 g, 0.06 mol) in tetrahydrofuran (60 ml) was chilled to -25° C. At this temperature, a solution of 1-pyrrolidino-hexene (9.1 g, 0.06 mol) in tetrahydrofuran (30 ml) was added dropwise. Cooling was then stopped and the reaction mixture was allowed to warm up to room temperature. The solution was then stirred for 1 hour and then evaporated. The resulting gum was triturated with isopropanol and the resulting solid material collected by vacuum filtration. After drying, yellowish crystals of 1-cyano-1-methoxycarbonyl-2-(2-pyrrolidino-cyclohexenyl)-ethene (9.5 g, 60.9% of theoretical yield; m.pt. 133° C.-134° C.) Were obtained. The compound migrated in tlc uniformly and was used for the next step without further purification.

reactant | 1-Cyano-2methoxy-1-methoxycarbonyl-ethene | 0.06 mol, 8.5 g | C(#N)C(=COC)C(=O)OC | C6H7NO3
reactant | 1-pyrrolidino-hexene | 0.06 mol, 9.1 g | N1(CCCC1)C=CCCCC | C10H19N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-cyano-1-methoxycarbonyl-2-(2-pyrrolidino-cyclohexenyl)-ethene | 9.5 g, 60.9% | C(#N)C(=CC1=C(CCCC1)N1CCCC1)C(=O)OC | C15H20N2O2
